US07834003B2
1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-(methyl[(2-oxo-1,3-dioxolan-4-yl)methyl]amino]-4-[(trifluoromethyl) sulfonyl]-1H-pyrazole-3-carbonitrile
To a mixture of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(2,3-dihydroxypropyl)(methyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile (0.20 g, 0.4 mmol) and diisopropylethylamin (0.14 g, 1.1 mmol) in THF (10 mL) phosgene-toluene solution (0.22 g, 20% COCl2, 0.4 mmol) was added. The mixture was stirred at 20-30° C. for 20 h. Extractive workup (heptane-ethyl acetate, water) and chromatography gave the title product (Compound 05-18, 0.14 g) as an oil; 1H-NMR: 2.88 (NMe), 3.35 and 3.45 (NCH2), 3.96 and 4.55 (CH2O), 4.82 (CHO), 7.87 (ArH) ppm; 19F-NMR: −63.8 (PhCF3); -78.8 ppm (SO2CF3).

reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(2,3-dihydroxypropyl)(methyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile | 0.4 mmol, 0.20 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(C)CC(CO)O)S(=O)(=O)C(F)(F)F)C#N | C16H12Cl2F6N4O4S
reactant | diisopropylethylamin | 1.1 mmol, 0.14 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | 0.4 mmol, 10 mL, 0.22 g | C1CCOC1 | C4H8O
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-(methyl[(2-oxo-1,3-dioxolan-4-yl)methyl]amino]-4-[(trifluoromethyl) sulfonyl]-1H-pyrazole-3-carbonitrile | 0.14 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(CC1OC(OC1)=O)C)S(=O)(=O)C(F)(F)F)C#N | C17H10Cl2F6N4O5S
